US06087357
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dichlorobenzyl)piperazine hydrochloride (150 mg) and 1-(4-chloro-2-butynyl)morpholine hydrochloride (63 mg) in N,N-dimethylformamide (0.5 ml) was stirred at room temperature in the presence of powdered potassium carbonate (160 mg). After 17 hours, the reaction mixture was diluted with ethyl acetate (30 ml) and then washed successively with water and brine, and dried over magnesium sulfate. After evaporation of the solvent in vacuo, the resulting residue was purified by column chromatography on silica gel using a mixture of ethyl acetate and methanol (10:1) as an eluent to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dichlorobenzyl)-4-(4-morpholino-2-butynyl)piperazine. The product obtained was dissolved in ethyl acetate and treated with 4N hydrogen chloride in ethyl acetate solution to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dichlorobenzyl)-4-(4-morpholino-2-butynyl)piperazine dihydrochloride (155 mg).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dichlorobenzyl)piperazine hydrochloride | 150 mg | Cl.FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CC(=C(C=C2)Cl)Cl)C=C(C1)C(F)(F)F)(F)F
reactant | potassium carbonate | 160 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dichlorobenzyl)-4-(4-morpholino-2-butynyl)piperazine | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCN2CCOCC2)CC2=CC(=C(C=C2)Cl)Cl)C=C(C1)C(F)(F)F)(F)F | C28H27Cl2F6N3O2
